US06002008
7-Ethoxy-1,4-dihydro-6-methoxy-4-oxo-3-quinolinecarbonitrile
Added 54.0 ml (135 mmol) n-butyl lithium to 150 ml THF and chilled to -78° C. under N2. Added dropwise over 20 minutes 7.05 ml (135 mmol) acetonitrile in 200 ml THF. Stirred 15 minutes and added a solution of 17.99 g (64.2 mmol) methyl 4-ethoxy-5-methoxy-2-(dimethylaminomethyleneamino)benzoate in 150 ml THF dropwise over 20 minutes. Let stir for 0.5 hour at -78° C. Added 11.0 ml (193 mmol) acetic acid and warmed gradually to 25° C. After 2.5 hours, stripped solvent, slurried residue with water, collected solids and dried in vacuo, giving 13.025 g of yellow solid: mass spectrum (electrospray m/e): M+H=245.2.

reactant | n-butyl lithium | 135 mmol, 54.0 ml | C(CCC)[Li]
reactant | acetonitrile | 135 mmol, 7.05 ml | C(C)#N | C2H3N
reactant | methyl 4-ethoxy-5-methoxy-2-(dimethylaminomethyleneamino)benzoate | 64.2 mmol, 17.99 g | C(C)OC1=CC(=C(C(=O)OC)C=C1OC)N=CN(C)C | C14H20N2O4
reactant | acetic acid | 193 mmol, 11.0 ml | C(C)(=O)O | C2H4O2
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 7-Ethoxy-1,4-dihydro-6-methoxy-4-oxo-3-quinolinecarbonitrile | 13.025 g | C(C)OC1=C(C=C2C(C(=CNC2=C1)C#N)=O)OC | C13H12N2O3
